US06489321B1
2-(2-Hydroxyethyl)-5-(4-aminobenzenesulfonyl)-1,5-benzothiazepine (Compound 4)
2-(2-Hydroxyethyl)-5-(4-acetamidobenzenesulfonyl)-1,5-benzothiazepine as prepared in Example 24 was dissolved in a 10% HCl/MeOH (100 ml) solution and stirred at reflux for 2½ hours. The mixture was cooled and a saturated NaHCO3 solution 160 ml) was added. The methanol was removed under reduced pressure and the aqueous mixture extracted with EtOAc (2×80 ml). The combined EtOAc extracts were dried (MgSO4), filtered and evaporated in vacuo to give the desired product as a solid (2.4 g,92%) m.p. 145-148° C. 1H NMR (300 MHz, DMSOd6) 6 7.50( d, J=7 Hz, 1H); 7.41 (d, J=8.6 Hz, 2H); 7.33-7.19 (m, 3H); 6.59 (d, J=8.6 Hz, 2H); 6.05(s, 2H) 4.51 (t, J=5 Hz, 1H); 3.45-3.35 (m, 4H); 2.96 (m, 1H), 2.07(m, 1H); 1.81(m, 1H); 1.49(m, 2H) . m/z (MH+) 365.

reactant | 2-(2-Hydroxyethyl)-5-(4-acetamidobenzenesulfonyl)-1,5-benzothiazepine | OCCC1SC2=C(N(C=C1)S(=O)(=O)C1=CC=C(C=C1)NC(C)=O)C=CC=C2 | C19H20N2O4S2
reactant | NaHCO3 | 160 ml | C(=O)(O)[O-].[Na+]
solvent | HCl MeOH | 100 ml | Cl.CO
product | 2-(2-Hydroxyethyl)-5-(4-aminobenzenesulfonyl)-1,5-benzothiazepine | 2.4 g, 92% | OCCC1SC2=C(N(C=C1)S(=O)(=O)C1=CC=C(C=C1)N)C=CC=C2 | C17H18N2O3S2
